US05037987
(-)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid [2-(N-methyl-N-phenylmethylamino)ethyl]ester
To a solution of 21.05 g 2-(N-benzyl-N-methylamino)-ethanol in 42 mL toluene are added under nitrogen 0.74 g sodium hydride (80%). After stirring for 30 minites a solution of 8.42 g (0.0174 mole) (-)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid benzyl ester is added dropwise. The reaction mixture is stirred under nitrogen and the exclusion of moisture for 4 hours by heating to boiling temperature under reflux. The reaction mixture is subsequently extracted with 2×50 mL 2N acetic acid. The reaction mixture is subsequently dried over sodium sulfate and evaporated to dryness. The residue is purified over silica gel with toluene:ethyl acetate (7:3) as elution agent. After distilling off the elution agent there is obtained an oily product. The oil is dissolved with 1.28 g fumaric acid in 180 mL ethyl acetate under heating to reflux temperature. After filtration the reaction mixture is evaporated to about 20 mL. The precipitated product is filtered off with suction, dispersed in 14 mL toluene and stirred with 3 mL 1M aqueous ammonium hydroxide solution. The toluene phase is washed with 2×5 mL of water. The organic phase is after drying over sodium sulfate evaporated to dryness. There is obtained an oily product, yield 0.8 g (8.5% of theory); [α]D =-40.8° (c=1/dichloromethane).

reactant | 2-(N-benzyl-N-methylamino)-ethanol | 21.05 g | C(C1=CC=CC=C1)N(C)CCO | C10H15NO
reactant | (-)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid benzyl ester | 0.0174 mole, 8.42 g | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=CC=C1)C(F)(F)F)OC(C)C)C | C27H25F3N2O3
reactant | fumaric acid | 1.28 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 42 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 180 mL | C(C)(=O)OCC | C4H8O2
product | (-)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid [2-(N-methyl-N-phenylmethylamino)ethyl]ester | CN(CC1=CC=CC=C1)CCOC(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=CC=C1)C(F)(F)F)OC(C)C)C | C30H32F3N3O3
